US07435837B2
Treatment of (±)-(7-bromo-4-fluoro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (2.05 g, 5.11 mmol) with 2-methylphenyl boronic acid (1.04 g, 7.66 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.201 g, 0.255 mmol), and potassium carbonate (1.77 g, 12.77 mmol) generally according to the procedure described for Intermediate 37 provided 1.38 g (65%) of (±)-[4-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. Rf=0.34 (silica, ethyl acetate:hexanes 1.5:8.5); Anal. calcd. for C23H21FO4S: C, 66.97; H, 5.13. Found: C, 66.95; H, 4.76.

reactant | (±)-(7-bromo-4-fluoro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 5.11 mmol, 2.05 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2Br)F | C16H14BrFO4S
reactant | 2-methylphenyl boronic acid | 7.66 mmol, 1.04 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | potassium carbonate | 12.77 mmol, 1.77 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.255 mmol, 0.201 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[4-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 1.38 g, 65% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2C2=C(C=CC=C2)C)F | C23H21FO4S
